US06927228B2
(e) Methyl ethyl 2-{3′-[(heptanoylmethylamino)-methyl]biphenyl-4-ylmethyl}succinate
In a manner similar to that of Example 1(g), starting with 1.70 g (3.5 mmol) of methyl ethyl 2-{3′-[(heptanoylmethylamino)methyl]biphenyl-4-ylmethylene}succinate and 170 mg (10% by mass) of 10% palladium-on-charcoal in 20 ml of ethyl acetate, 1.30 g (77%) of the expected product are obtained.

reactant | methyl ethyl 2-{3′-[(heptanoylmethylamino)methyl]biphenyl-4-ylmethylene}succinate | 3.5 mmol, 1.70 g | C(CCCCCC)(=O)N(C)CC=1C=C(C=CC1)C1=CC=C(C=C1)C=C(C(=O)OC)CC(=O)OCC | C29H37NO5
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 170 mg | [Pd] | Pd
product | Methyl ethyl 2-{3′-[(heptanoylmethylamino)-methyl]biphenyl-4-ylmethyl}succinate | 1.30 g, 77% | C(CCCCCC)(=O)N(C)CC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)OC)CC(=O)OCC | C29H39NO5
